US04738970
To 4.8 g of 4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide was added 50 ml of acetic anhydride, and the mixture was stirred at 90° C. for 5 hours. After the reaction was completed, acetic anhydride was removed by evaporation under reduced pressure, to the residue thus obtained was added water and then extracted with chloroform. The chloroform layer was washed with an aqueous solution of sodium hydroxide and an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate. Chloroform was removed by evaporation under reduced pressure to obtain 5.0 g of 8-acetoxy-4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline in the form of brown oily substance.

reactant | 4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide | 4.8 g | C(C=C)OC1=C(C=[N+](C=2CCCCC12)[O-])C | C13H17NO2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 8-acetoxy-4-allyloxy-3-methyl-5,6,7,8-tetrahydroquinoline | 5.0 g | C(C)(=O)OC1CCCC=2C(=C(C=NC12)C)OCC=C | C15H19NO3
